US08048909B2
1-[(4-Fluorophenyl)sulfonyl]-5-(4-methoxyphenyl)-1H-pyrrole-3-carbaldehyde
Using ethyl 5-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate and 4-fluorobenzenesulfonyl chloride, a procedure as in Reference Example 4 was performed to synthesize ethyl 1-[(4-fluorophenyl)sulfonyl]-5-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate, and procedures as in Reference Examples 5 and 6 were sequentially performed to give the title compound as an oil.

reactant | ethyl 5-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate | COC1=CC=C(C=C1)C1=CC(=CN1)C(=O)OCC | C14H15NO3
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | ethyl 1-[(4-fluorophenyl)sulfonyl]-5-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=C(C=C1)OC)C(=O)OCC | C20H18FNO5S
product | 1-[(4-Fluorophenyl)sulfonyl]-5-(4-methoxyphenyl)-1H-pyrrole-3-carbaldehyde | FC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=C(C=C1)OC)C=O | C18H14FNO4S
